US05763437
To a suspension of sodium hydride (0.294g of a 60 % dispersion in mineral oil (7.36 mmol) in N,N-dimethylformamide (20 ml) was added slowly (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one (2.70 g) under cooling in an ice-bath. The mixture was stirred at the same temperature for 0.5 hour and at ambient temperature for 1 hour. To the mixture was added dropwise a solution of methyl bromoacetate (1.13 g) in N,N-dimethylformamido (5 ml) under cooling in an ice-bath. The mixture was stirred at ambient temperature overnight. To the reaction mixture was added acetic acid (1 ml) and stirred for 0.5 hour. The resultant was poured into water (100 ml) and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-(2-fluoro-phenyl)-1-(methoxycarbonylmethyl)-1H-1,4-benzodiazepin-2-one (3.4 g).

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | 2.70 g | C(C1=CC=CC=C1)OC(=O)NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C23H18FN3O3
reactant | methyl bromoacetate | 1.13 g | BrCC(=O)OC | C3H5BrO2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-(2-fluoro-phenyl)-1-(methoxycarbonylmethyl)-1H-1,4-benzodiazepin-2-one | 3.4 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)OC)=O | C26H22FN3O5
